US06410732B2
A mixture of 10.00 g of acridan (55.2 mmol), 0.26 g of Pd(OAc)2 (0.11 mmol), 0.20 g of tri-t-butylphosphine (0.88 mmol), 7.96 g of sodium t-butoxide (82.8 mmol), and 12.39 g of 1-bromo-4-nitrobenzene (61.3 mmol) in 150 mL of dry toluene (MgSO4) was stirred at room temperature under inert atmosphere for 18 h. The reaction mixture was extracted with 1 L of CH2Cl2 and filtered through silica gel. The filtrate chromatographed on silica gel with 2.5-5% ethyl acetate in hexanes to afford white solid that was triturated in hexanes, filtered and dried to yield 4.00 g (24%) of pure N-(4-nitrophenyl)acridan.

reactant | acridan | 55.2 mmol, 10.00 g | C1=CC=CC=2NC3=CC=CC=C3CC12 | C13H11N
reactant | sodium t-butoxide | 82.8 mmol, 7.96 g | CC(C)([O-])C.[Na+]
reactant | 1-bromo-4-nitrobenzene | 61.3 mmol, 12.39 g | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.11 mmol, 0.26 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | tri-t-butylphosphine | 0.88 mmol, 0.20 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
product | N-(4-nitrophenyl)acridan | 4.00 g, 24% | [N+](=O)([O-])C1=CC=C(C=C1)N1C=2C=CC=CC2CC2=CC=CC=C12 | C19H14N2O2
